US08835648B2
2-(5-Bromo-2-fluoro-phenyl)-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester
Method 6—Step c To a stirred mixture of 2-(5-Bromo-2-fluoro-phenyl)-5-methoxy-1H-benzoimidazole (0.87 g, 2.70 mmol) in dcm (10 mL), Boc2O (0.76 g, 3.50 mmol) and DMAP (0.03 g, 0.27 mmol) were added and the reaction mixture was left stirring at room temperature for a week end. Then dichloromethane (20 mL) was added and the reaction mixture was washed with saturated NaHCO3 solution (4 mL), citric acid (10% solution), the organic layer recovered by filtration through phase separator, and the solvent removed under reduced pressure. The crude was then purified by flash chromatography (eluent cyclohexane:ethyl acetate/10:1) to obtain 0.82 g of the title compound as mixture of two diastereoisomers (72%).

reactant | 2-(5-Bromo-2-fluoro-phenyl)-5-methoxy-1H-benzoimidazole | 2.70 mmol, 0.87 g | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC(=C2)OC)F | C14H10BrFN2O
reactant | Boc2O | 3.50 mmol, 0.76 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.27 mmol, 0.03 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(5-Bromo-2-fluoro-phenyl)-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.82 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)OC)C2=C(C=CC(=C2)Br)F | C19H18BrFN2O3
